Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Falls, L leg weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 HPI: 
___ with PMH HLD, Paget's disease who presented as a transfer
from OSH with IPH s/p fall. On ___, he was in his usual state
of health until he began walking his dog and he noticed that he
felt light-headed, like the floor was going to give out
underneath him. He then felt unbalanced and was having 
difficulty
walking. He denies any vertigo or visual changes. According to
his wife, he was bradykinetic and bradyphrenic all day. They
drove to a friend's house that afternoon, and she noticed that 
he
would veer off to the left, especially if he couldn't see the
lines in the road. At his friend's house, he tripped on a rug 
and
fell on to his left hip and hit the back of his head. He did not
lose consciousness or have any symptoms at that time. They went
home that evening and he went right to bed and slept for "longer
than usual" per the wife. Since he was not better in the 
morning,
they brought him to the ED at ___.

 On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, vertigo, tinnitus or
hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal weakness, numbness,
parasthesiae. No bowel or bladder incontinence or retention. 
  
 On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
Paget's
 HLD

 
Social History:
___
Family History:
no history of strokes
 
Physical Exam:
  
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Able to spell WORLD backwards and recite
DOWB. Able to calculate number of quarters in $2.75. There were
no paraphasic errors. Pt was able to name both high and low
frequency objects. Speech was not dysarthric. Able to follow 
both
midline and appendicular commands. There was no evidence of
apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to conversation bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
   Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
 L  5    5   4+  5   5    4    4+  4   5       5    5   
 R  5    ___   5    5    ___       5    5   

-Sensory: No deficits to gross touch throughout

-DTRs: ___

-___: No intention tremor. Normal finger-tap
bilaterally. 

-Gait: Narrow base, normal initiation. Foot dragging improving. 

 
Pertinent Results:
MRI BRAIN: 
 
1. Stable right parietal lobe early subacute parenchymal 
hematoma. 
2. Small area of FLAIR subarachnoid signal abnormality, mild 
enhancement 
adjacent hematoma, may be reactive, or inflammatory, consider 
inflammatory 
amyloid. 
3. Findings consistent with amyloid angiopathy elsewhere. 
4. Small chronic infarcts. 
5. Findings consistent with extensive chronic small vessel 
ischemic changes.  
Component of chronic demyelination would be difficult to 
exclude.  Some of the 
T2 signal abnormalities extend into the subcortical white 
matter, atypical 
feature of chronic small vessel disease, can be seen with 
amyloid positive 
patients. 
6. Abnormal right sphenoid sinus, appearance highly suggestive 
of fungus ball. 

___ 04:35AM BLOOD WBC-2.7* RBC-4.85 Hgb-14.7 Hct-43.7 
MCV-90 MCH-30.3 MCHC-33.6 RDW-13.0 RDWSD-42.5 Plt ___
___ 04:35AM BLOOD Neuts-43.8 ___ Monos-11.2 Eos-2.6 
Baso-0.4 Im ___ AbsNeut-1.17* AbsLymp-1.11* AbsMono-0.30 
AbsEos-0.07 AbsBaso-0.01
___ 04:35AM BLOOD Plt ___
___ 04:35AM BLOOD Glucose-86 UreaN-8 Creat-0.9 Na-139 K-4.5 
Cl-100 HCO3-30 AnGap-9*
___ 09:15AM BLOOD ALT-17 AST-24 LD(LDH)-200 CK(CPK)-379* 
AlkPhos-61 TotBili-0.8
___ 09:15AM BLOOD TotProt-7.4 Albumin-4.6 Globuln-2.8 
Calcium-9.7 Phos-3.2 Mg-2.1 Cholest-293*
___ 09:15AM BLOOD Triglyc-110 HDL-77 CHOL/HD-3.8 
LDLcalc-194*
 
Brief Hospital Course:
Brief Hospital Course: 

Mr. ___ is a ___ year old man with paget's disease and 
hyperlipidemia who presented to an outside hospital with gait 
instability and a fall, on head ct found to have a R 
frontoparietal infarct in the ___ territory. 
He was subsequently transferred to ___ for evaluation. 

#R IPH: 
-Differential for this hemorrhage included AVM, ischemic infarct 
with hemorrhagic conversion or amyloid angiopathy. The location 
was slightly unusual. He underwent an MRI of the brain which 
showed the stable hemorrhage and extensive white matter disease 
prompting consideration of amyloid angiopathy, though he does 
not have significant microbleeds on GRE 
-The patient's main deficits were mild L leg weakness 
corresponding with the bleed in the ___ territory 
-Given that the patient did not have many other significant risk 
factors, he underwent a diagnostic angiogram to look for an AVM 
as potential cause of hemorrhage. Diagnostic angio returned 
negative for avm, though he was found to have a congenitally 
absent anterior sagittal vein 
-The patient maintained a BP <150 on his own
-Statin was not initiated for elevated LDL due to hemorrhage, 
though repeat scan in ___ months should be done and statin can 
be initiated afterwards 
-At___ patient therefore he needs referral to ___ neurology 
and repeat MRI in ___ months
-Patient worked with physical therapy during admission 

#HLD: 
-As mentioned above, elevated LDL, consider statin after repeat 
stability scan done

#Sinusitis: 
-Patient was noted to have sphenoid sinusitis with erosion. ENT 
recommended BID nasal saline spray and follow up in their 
outpatient clinic or with his own ENT. Patient stated that he 
sees an ENT physician and will ___ with them. If unable to 
schedule with them please call ___ for an ENT 
appointment

Transitional issues: 
1. Follow up with atrius neurology, repeat mri brain in ___ 
months
2. Avoid all anti platelet/ NSaids
3. F/u with ENT
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Vitamin D 1000 UNIT PO DAILY  
2.Outpatient Physical Therapy
ICD 9: 432.9

___ ___
3.Outpatient Physical Therapy
Outpatient physical therapy

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Intracerebral Hemorrhage

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the neurology service after you were found 
to have difficulty walking and subsequently had a fall at home. 
You were brought to the ER where you were found to have a bleed 
in the ___ your head in the area that controls leg 
strength. 

You subsequently underwent an MRI of the brain to give us a 
better understanding of the brain bleed and your brain 
structure. We saw some evidence of what we call "White matter 
disease" which are just chronic changes from ageing. We also saw 
the brain bleed but no other areas of bleeding except for what 
was seen on the cat scan. The bleed was stable. 

We asked our neurosurgery colleagues to perform an Angiogram to 
see if there was any abnormal tangle of blood vessels that may 
have caused the brain bleed. The angiogram was NEGATIVE for any 
arteriovenous malformation. 

Your cholesterol level was checked and was elevated. You should 
follow up with your PCP to determine if statin therapy is needed 
on top of your dietary restrictions.

Since you are an Atrius patient, you will have to ___ with 
atrius neurology. We would like them to perform an MRI Brain in 
about ___ months time to make sure that there is no underlying 
lesion. Please continue to take care of yourself and exercise as 
tolerated. 

It was a pleasure taking care of you!

Sincerely, 
Your ___ Neurology Team 
 
Followup Instructions:
___